US05955548
Synthesis of 3-[3,5-bis(trifluoromethyl)phenylamino]-3-(3-methylbutylamino)-2-propenenitrile
To a solution of 3-[3,5-bis(trifluoromethyl)phenylamino]-2-cyano-3-(3-methylbutylamino)acrylic acid tert-butyl ester (194 mg, 0.417 mmol) in DCM (2 mL) trifluoroacetic acid (2 mL) was added. After 30 min at room temperature the solution was concentrated, the residue was redissolved in carbon tetrachloride (10 mL) and reconcentrated. The product was purified by flash chromatography (6 g silica gel, gradient of heptane/ethyl acetate). 45 mg (30%) of the title compound was obtained as an oil. LCMS: MH+ =366. This compound was identical by LCMS to the product obtained from solid-phase synthesis.

reactant | 3-[3,5-bis(trifluoromethyl)phenylamino]-2-cyano-3-(3-methylbutylamino)acrylic acid tert-butyl ester | 0.417 mmol, 194 mg | C(C)(C)(C)OC(C(=C(NCCC(C)C)NC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C#N)=O | C21H25F6N3O2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 3-[3,5-bis(trifluoromethyl)phenylamino]-3-(3-methylbutylamino)-2-propenenitrile | 45 mg, 30% | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=CC#N)NCCC(C)C)(F)F | C16H17F6N3
